US07018988B2
(2S,4EZ)-4-(acetylhydrazono)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-[(2RS)-2-hydroxy-2-phenylethyl]-2-pyrrolidinecarboxamide
A hydrazono pyrrolidine derivative obtained by the general method outlined in Example 17, e.g. (2S,4EZ)-1-([1,1′-biphenyl]-4ylcarbonyl)-4-hydrazono-N-[(2RS)-2-hydroxy-2-phenylethyl]-2-pyrrolidinecarboxamide (51 mg, 0.111 mmol) was dissolved in pyridine (1 mL). Acetic anhydride (3 eq, 32 μl, 0.35 mmol) was added, and the mixture was stirred overnight. The solvent was evaporated and the resultant crude reaction mixture was purified by column chromatography using DCM/MeOH (20:1) to collect the desired product, e.g. (2S,4EZ)-4-(acetylhydrazono)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-[(2RS)-2-hydroxy-2-phenylethyl]-2-pyrrolidinecarboxamide as a mixture of two isomers as a colorless solid in 73% yield (98.4% purity by HPLC).

reactant | (2S,4EZ)-1-([1,1′-biphenyl]-4ylcarbonyl)-4-hydrazono-N-[(2RS)-2-hydroxy-2-phenylethyl]-2-pyrrolidinecarboxamide | 0.111 mmol, 51 mg | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NN)C(=O)NCC(C1=CC=CC=C1)O)C1=CC=CC=C1 | C26H26N4O3
reactant | Acetic anhydride | 0.35 mmol, 32 μl, 3 eq | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | (2S,4EZ)-4-(acetylhydrazono)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-[(2RS)-2-hydroxy-2-phenylethyl]-2-pyrrolidinecarboxamide | C(C)(=O)NN=C1C[C@H](N(C1)C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C(=O)NCC(C1=CC=CC=C1)O | C28H28N4O4
